US05977155
ethyl cyano-[(1-oxobutyl)amino]acetate
5 g of ethyl(hydroxyimino)cyanoacetate, 40 cm3 of tetrahydrofuran, 11.5 cm3 of butyric anhydride and 2.5 g of platinum are mixed together and agitated under a hydrogen atmosphere until saturation. Filtration is carried out, followed by rinsing with 5×15 cm3 of ethyl ether, the ether is evaporated off, 200 cm3 of essence G is added little by little, followed by separation, washing with 3×10 cm3 of essence G and drying at about 75° C. After concentration to about 10 cm3, 50 cm3 of essence G is added, crystallization is allowed to take place for 30 minutes at ambient temperature, the crystals are separated off, washed with 3×3 cm3 of essence G and dried at about 75° C. 5.73 g of product is obtained. M.p.=110° C. Recrystallization for analyses:

reactant | ethyl(hydroxyimino)cyanoacetate | 5 g | C(C)OC(C(C#N)=NO)=O | C5H6N2O3
reactant | butyric anhydride | 11.5 cm3 | C(CCC)(=O)OC(CCC)=O | C8H14O3
catalyst | platinum | 2.5 g | [Pt] | Pt
solvent | tetrahydrofuran | 40 cm3 | O1CCCC1 | C4H8O
product | ethyl cyano-[(1-oxobutyl)amino]acetate | 5.73 g | C(#N)C(C(=O)OCC)NC(CCC)=O | C9H14N2O3
